US05707544
0.6 g of N,N'-dicyclohexylcarbodiimide is added at room temperature while stirring to a solution of 1.0 g of 4-(4-nitrophenylazo)benzoic acid, 0.3 g of 4-hydroxybenzaldehyde and 0.04 g of 4-dimethylaminopyridine in 20 ml of dichlormethane. The reaction mixture is stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of dichloromethane each time. The organic phases are combined, washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and the filtrate is concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol. 1:1) and two-fold recrystallization from ethanol of the fractions which are pure according to thin-layer chromatography gives 0.9 g of 4-[4-(4-nitrophenylazo)benzoyloxy]benzaldehyde.

reactant | N,N'-dicyclohexylcarbodiimide | 0.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(4-nitrophenylazo)benzoic acid | 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C(=O)O)C=C1 | C13H9N3O4
reactant | 4-hydroxybenzaldehyde | 0.3 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | water | 100 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichlormethane | 20 ml | ClCCl | CH2Cl2
product | 4-[4-(4-nitrophenylazo)benzoyloxy]benzaldehyde | 0.9 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C(=O)OC2=CC=C(C=O)C=C2)C=C1 | C20H13N3O5
